US05135932
6-[1-(2-Acetylaminoethyl)benzimidazol-5-yl]-3(2H)-pyridazinone
14.2 g (49.4 mmol) of 6-(3-amino-4-acetylaminoethylaminophenyl)-3(2H)-pyridazinone are refluxed for one hour in 60 ml of formic acid. Then the excess formic acid is distilled off in vacuo, the residue is mixed with 50 ml of ice water and then adjusted to pH 8-9 with concentrated ammonia solution. The product precipitated is suction filtered, washed with about 50 ml of cold water, then with 50 ml of ether and dried.

reactant | 6-(3-amino-4-acetylaminoethylaminophenyl)-3(2H)-pyridazinone | 49.4 mmol, 14.2 g | NC=1C=C(C=CC1NCCNC(C)=O)C=1C=CC(NN1)=O | C14H17N5O2
reactant | formic acid | 60 ml | C(=O)O | CH2O2
product | 6-[1-(2-Acetylaminoethyl)benzimidazol-5-yl]-3(2H)-pyridazinone | C(C)(=O)NCCN1C=NC2=C1C=CC(=C2)C=2C=CC(NN2)=O | C15H15N5O2
